US05705702
A Grignard reagent was conventionally prepared using 3,4-di-tert-butoxyphenyl chloride, magnesium, and THF and further reacted with thionyl chloride, obtaining bis(3,4-di-tert-butoxyphenyl) sulfoxide in a yield of 64%. Then 58.9 g (0.12 mol) of bis(3,4-di-tert-butoxyphenyl) sulfoxide was dissolved in 120 g of THF and cooled in an ice water bath. Then 12.1 g (0.12 mol) of triethylamine was added thereto and 68.3 g (0.31 mol) of trimethylsilyl triflate was added dropwise in a controlled manner at less 10° C. To this solution, a Grignard reagent which was conventionally prepared using 61.6 g (0.24 mol) of 1,2-di-tert-butoxy-4-chlorobenzene, 5.8 g (0.24 mol) of magnesium, and 100 g of THF was added dropwise in a controlled manner at less 10° C. With the reaction temperature controlled at 0° to 10° C., reaction ripening was carried out for 30 minutes. A 20% ammonium chloride aqueous solution, 700 g, was added to the reaction solution to terminate reaction, followed by separation. 300 g of chloroform was added to the organic layer. The organic layer was washed twice using 300 g of water and then evaporated, obtaining an oily residue. The oily residue was worked up by column chromatography (silica gel, eluent: chloroform/methanol), obtaining tris(3,4-di-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate of 99% purity in a yield of 20%. The final percent yield of this two-steps synthesis process was 13%.

reactant | bis(3,4-di-tert-butoxyphenyl) sulfoxide | 0.12 mol, 58.9 g | C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)S(=O)C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C | C28H42O5S
reactant | triethylamine | 0.12 mol, 12.1 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl triflate | 0.31 mol, 68.3 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | 1,2-di-tert-butoxy-4-chlorobenzene | 0.24 mol, 61.6 g | C(C)(C)(C)OC1=C(C=C(C=C1)Cl)OC(C)(C)C | C14H21ClO2
reactant | magnesium | 0.24 mol, 5.8 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 120 g | C1CCOC1 | C4H8O
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | tris(3,4-di-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate | yield of 20% | FC(S(=O)(=O)[O-])(F)F.C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)[S+](C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C)C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C | InChI=1S/C42H63O6S.CHF3O3S/c1-37(2,3)43-31-22-19-28(25-34(31)46-40(10,11)12)49(29-20-23-32(44-38(4,5)6)35(26-29)47-41(13,14)15)30-21-24-33(45-39(7,8)9)36(27-30)48-42(16,17)18;2-1(3,4)8(5,6)7/h19-27H,1-18H3;(H,5,6,7)/q+1;/p-1
